US04845267
PREPARATION OF METHYL 1-(FLUOROMETHYL)-4-HYDROXYBUTYLCARBAMATE
Seven ml of tetrahydrofuran were placed in a dried, argon-flushed 50 ml flask equipped with a septum, an argon inlet, and a spin bar and 7.0 ml of a 1M solution of borane in tetrahydrofuran was added. Cyclohexene (1.4 ml, 13.8 mmol) was added with stirring and cooling with an ice bath. The bath was removed and the mixture allowed to warm and stir overnight during which time a white precipitate formed. A solution of 1.00 g of methyl 1-(fluoromethyl)-3-butenylcarbamate (6.20 mmol) dissolved in 2.0 ml of ether was added rapidly to the mixture with stirring. The mixture exothermed slightly and the white precipitate dissolved. After 4 hours the solution was cooled with an ice bath and 3.0 ml of 4.0N sodium hydroxide added. There was some gas evolution. Four ml of 30 percent hydrogen peroxide was added dropwise with stirring over several minutes and the mixture was allowed to warm and stir for 20 min at which time it was transferred to a separatory funnel containing 80 ml of ethyl acetate and 20 ml of water. The aqueous layer was removed and the organic layer extracted with 20 ml of aqueous sodium chloride solution. The combined aqueous layers were extracted with ethyl acetate and the organic layers were then combined, dried over magnesium sulfate, and filtered. The volatiles were then removed by evaporation under reduced pressure to obtain the title compound as a clear, viscous oil. This was purified by bulb-to-bulb distillation to obtain 0.89 g of the desired product (80 percent of theory) containing less than 2 percent of isomers and having carbon, fluorine, and proton nmr spectra consistent with the assigned structure.

reactant | Cyclohexene | 13.8 mmol, 1.4 ml | C1=CCCCC1 | C6H10
reactant | methyl 1-(fluoromethyl)-3-butenylcarbamate | 6.20 mmol, 1.00 g | FCC(CC=C)NC(OC)=O | C7H12FNO2
reactant | sodium hydroxide | 4.0N, 3.0 ml | [OH-].[Na+]
reactant | hydrogen peroxide | Four ml | OO | H2O2
solvent | ether | 2.0 ml | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | Seven ml | O1CCCC1 | C4H8O
product | METHYL 1-(FLUOROMETHYL)-4-HYDROXYBUTYLCARBAMATE | FCC(CCCO)NC(OC)=O | C7H14FNO3
